US08138377B2
(2) (1S)-1-(3,4-Dichlorophenyl)-2-hydroxymethyl-cyclopropanecarbonitrile
3,4-Dichlorophenyl acetonitrile (40 g, 215 mmole) was dissolved in dry tetrahydrofuran (THF, 350mL) under nitrogen atmosphere, The solution was cooled to −25° C. and soda amide (8.3 g, 215 mmol) was added portion wise maintaining the temperature of the reaction mass −25° C. The reaction mixture was allowed to warm to room temperature and maintained for 2 hours. It was then cooled to −25° C. A solution of R-(−) epichlorohydrin (19.89 g, 215 mmol) in tetrahydrofuran (50 mL) was added drop wise at −25° C. followed by the portion wise addition of soda amide (8.3 g, 250 mmol). The temperature of the reaction mass was then gradually raised to room temperature over a period of 8 hours. The reaction was monitored by TLC (dichloromethane/hexane (1:1)). The reaction mass was quenched with saturated ammonium chloride solution. The aqueous layer was extracted with ethyl acetate (3×500 mL).The combined organic layer was dried over anhydrous sodium sulphate, filtered and evaporated under reduced pressure to yield 58 g of crude oil. The crude oil was purified by column chromatography (silica gel, dichloromethane/hexane (9:1) to yield 33.4 g (64%) of product. 1H NMR δ(300 MHz,CDCl3): 1.59-1.67 (3H,m), 1.88-1.97 (1H,m), 3.72-3.79 (1H,m), 4.06-4.12 (1H,m), 7.13-7.17 (1H,m) 7.39-7.52 (2H,m).

reactant | 3,4-Dichlorophenyl acetonitrile | 215 mmole, 40 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | R-(−) epichlorohydrin | 215 mmol, 19.89 g | C1[C@@H](O1)CCl | C3H5ClO
reactant | dichloromethane hexane | ClCCl.CCCCCC
solvent | tetrahydrofuran | 350mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (1S)-1-(3,4-Dichlorophenyl)-2-hydroxymethyl-cyclopropanecarbonitrile | 33.4 g, 64% | ClC=1C=C(C=CC1Cl)[C@]1(C(C1)CO)C#N | C11H9Cl2NO
